US06689902B2
To 2-methoxytoluene (146.7 g, 1.2 mol), aluminum chloride (44 g, 0.33 mol) and 3-methylcrotonic acid (30 g, 0.3 mol) were added, and the mixture was stirred at room temperature for 24 hours, and thereafter the reaction was stopped by the addition of six normal (6-N) hydrochloric acid aqueous solution (300 ml) thereto. Subsequently, from the thus-obtained mixture, the organic material was extracted with diethyl ether (150 ml). After that, one normal (1-N) caustic soda aqueous solution (100 ml) was added to the organic layer for extraction of the carboxylic acid(s). The thus-obtained alkaline mixture was acidified by the addition of hydrochloric acid (HCl) aqueous solution, and the mixture was extracted with diethyl ether and the solvent therein was removed by distillation. The thus-obtained residue was re-crystallized with hexane to obtain 3-(3-methyl-4-methoxyphenyl)-3-methylbutyric acid (39.6 g, yield: 59%).

reactant | 2-methoxytoluene | 1.2 mol, 146.7 g | COC1=C(C=CC=C1)C | C8H10O
reactant | aluminum chloride | 0.33 mol, 44 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-methylcrotonic acid | 0.3 mol, 30 g | CC(=CC(=O)O)C | C5H8O2
solvent | hydrochloric acid | 300 ml | Cl | ClH
product | 3-(3-methyl-4-methoxyphenyl)-3-methylbutyric acid | 39.6 g, yield: 59% | CC=1C=C(C=CC1OC)C(CC(=O)O)(C)C | C13H18O3
